.subckt test_netlist gate_drive1 sw_node_hs1 gate_drive2 sw_node_hs2

* Test circuit 1
V1 N200 0 100
R1 N200 sw_node_hs1 1
S1 sw_node_hs1 0 gate_drive1 0 myswitch
V2 N102 0 PULSE(0 10 0 1n 1n 50u 100u 200)
B2 gate_drive1 0 V=V(N102)
*output load
R23 0 sw_node_hs1 1

* Test circuit 2
V3 N201 0 100
R3 N201 sw_node_hs2 1
S5 sw_node_hs2 0 gate_drive2 0 myswitch
V4 N101 0 PULSE(0 10 0 50u 50u 1n 100u 200)
B1 gate_drive2 0 V=V(N101)
*output load
R26 0 sw_node_hs2 1
.model myswitch SW(Ron=0.002 Roff=1000000 Vt=3.0)

.ends test_netlist
